US06969711B2
To a solution of 1-(2-hydroxyethyl)piperazine (2.60 g, 20 mmol) in acetonitrile (35 ml) was added potassium carbonate (3.04 g, 22 mmol) and chloroacetonitrile (1.51 g, 20 mmol) was dropped thereinto with ice cooling. The mixture was stirred at room temperature for 30 minutes and then stirred at 45° C. for 30 minutes. This reaction mixture was filtered off, the filtrate was concentrated in vacuo and the residue was purified by a silica gel column chromatography (100 g of silica gel; developing solvent, chloroform:ammonia-saturated methanol=20:1→10:1) to provide 3.20 g (yield 95%) of 4-(cyanomethyl)piperazine-1-ethanol.

reactant | 1-(2-hydroxyethyl)piperazine | 20 mmol, 2.60 g | OCCN1CCNCC1 | C6H14N2O
reactant | potassium carbonate | 22 mmol, 3.04 g | C([O-])([O-])=O.[K+].[K+]
reactant | chloroacetonitrile | 20 mmol, 1.51 g | ClCC#N | C2H2ClN
solvent | acetonitrile | 35 ml | C(C)#N | C2H3N
product | 4-(cyanomethyl)piperazine-1-ethanol | 3.20 g, yield 95% | C(#N)CN1CCN(CC1)CCO | C8H15N3O
